US09163008B2
A mixture of (S)-methyl 6-(2-carbamoylpyrrolidin-1-yl)-2-chloropyrimidine-4-carboxylate (0.849 g, 2.98 mmol) in 7M ammonia in MeOH (5.0 mL) was stirred at ambient temperature overnight and then filtered. The filter cake was washed with methanol (1×2 mL)) and dried under vacuum at 40° C. to give (S)-6-(2-carbamoylpyrrolidin-1-yl)-2-chloropyrimidine-4-carboxamide as a white powder (0.611 g, 2.27 mmol, 76% yield). LC/MS: m/z=270.2 [M+H]+.

reactant | (S)-methyl 6-(2-carbamoylpyrrolidin-1-yl)-2-chloropyrimidine-4-carboxylate | 2.98 mmol, 0.849 g | C(N)(=O)[C@H]1N(CCC1)C1=CC(=NC(=N1)Cl)C(=O)OC | C11H13ClN4O3
reactant | ammonia | 7M | N | H3N
solvent | MeOH | 5.0 mL | CO | CH4O
product | (S)-6-(2-carbamoylpyrrolidin-1-yl)-2-chloropyrimidine-4-carboxamide | 2.27 mmol, 0.611 g, 76% yield | C(N)(=O)[C@H]1N(CCC1)C1=CC(=NC(=N1)Cl)C(=O)N | C10H12ClN5O2
